US06894061B2
2-Fluoro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine
The title compound was prepared from N-[1-(2′,5′-difluoro-1,1′-biphenyl-2-yl)ethyl]-3-methoxybenzenesulfonamide (440 mg, 1.1 mmol), anhydrous N,N-dimethylformamide (2 mL), and potassium carbonate (301 mg, 2.2 mmol) according to the procedure and in the same manner as described in Example 105, step d. The product was purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 30%-50% methyl tert-butyl ether in hexane (35 min), to afford the desired compound (100 mg, 24%) as a white solid;

reactant | N-[1-(2′,5′-difluoro-1,1′-biphenyl-2-yl)ethyl]-3-methoxybenzenesulfonamide | 1.1 mmol, 440 mg | FC1=C(C=C(C=C1)F)C1=C(C=CC=C1)C(C)NS(=O)(=O)C1=CC(=CC=C1)OC | C21H19F2NO3S
reactant | potassium carbonate | 2.2 mmol, 301 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-Fluoro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 100 mg, 24% | FC1=CC=2C3=CC=CC=C3C(N(C2C=C1)S(=O)(=O)C1=CC(=CC=C1)OC)C | C21H18FNO3S
